US08541421B2
(Z)—N-(2-cyanocyclohept-1-enylcarbamoyl)benzamide
Prepared as in Example 75a from (Z)-2-aminocyclohept-1-enecarbonitrile and benzoyl isocyanate as a white solid. MS 284 (MH+).

reactant | (Z)-2-aminocyclohept-1-enecarbonitrile | N\C\1=C(\CCCCC1)/C#N | C8H12N2
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | (Z)—N-(2-cyanocyclohept-1-enylcarbamoyl)benzamide | C(#N)\C\1=C(\CCCCC1)/NC(=O)NC(C1=CC=CC=C1)=O | C16H17N3O2
